US04900752
7,8-dihydro-6,6-dimethyl-7-hydroxy-8-(2-chloroethylureido)-6H-pyrano [2,3-f] benzo-2,1,3-oxadiazole
To a mixture of 400 mg (1.70 m mol) of 7,8-dihydro-6,6-dimethyl-7-hydroxy-8-amino-6H-pyrano [2,3-f] benzo-2,1,3-oxadiazole and 40 ml of dichloromethane were added 200 μl (1.87 m mol) of 2-chloroethyl isocyanate with stirring at the room temperature, followed by stirring for 6 hours. The precipitated crystals were separated by filter to obtain 480 mg (yield: 83%) of the intended compound as colorless crystals.

reactant | 7,8-dihydro-6,6-dimethyl-7-hydroxy-8-amino-6H-pyrano [2,3-f] benzo-2,1,3-oxadiazole | 400 mg | CC1(C(C(C=2C(=CC=3C(=NON3)C2)O1)N)O)C | C11H13N3O3
reactant | 2-chloroethyl isocyanate | 200 μl | ClCCN=C=O | C3H4ClNO
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 7,8-dihydro-6,6-dimethyl-7-hydroxy-8-(2-chloroethylureido)-6H-pyrano [2,3-f] benzo-2,1,3-oxadiazole | 480 mg, yield: 83% | CC1(C(C(C=2C(=CC=3C(=NON3)C2)O1)NC(=O)NCCCl)O)C | C14H17ClN4O4
